* Z:\mnt\design.r\spice\examples\1261LCS8-4.5.asc
V1 IN 0 5
C1 N002 N004 .1µ
C2 OUT 0 3.3µ
Rload OUT 0 1K
R1 IN N003 3.3K
XU1 IN N002 N004 0 N005 OUT N003 N001 LTC1261LCS8-4.5
.tran 1m
.lib LTC1261LCS8-4.5.sub
.backanno
.end
